US09447090B2
To a mixture of 68 mg of diethyl butyl[({8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridin-3-yl}carbonyl)amino]malonate in 1.4 ml of ethanol was added a solution of 35 mg of calcium chloride in 0.34 ml of water. Subsequently, 24 mg of sodium borohydride was added thereto under ice-cooling, followed by stirring for 1 hour under ice-cooling and at room temperature for 4 hours. Further, 2 ml of ethanol, a solution of 35 mg of calcium chloride in 0.34 ml of water, and 24 mg of sodium borohydride were added thereto followed by stirring at room temperature for 15 hours. Further, a solution of 35 mg of calcium chloride in 0.34 ml of water and 24 mg of sodium borohydride were added thereto, followed by stirring at room temperature for 15 hours. To the reaction mixture were added 1 M hydrochloric acid and ethyl acetate to carry out a layer separation operation. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 32 mg of 8-[(2,6-difluorobenzyl)oxy]-N-[1-hydroxy-2-(hydroxymethyl)hexan-2-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | diethyl butyl[({8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridin-3-yl}carbonyl)amino]malonate | 68 mg | C(CCC)C(C(=O)OCC)(C(=O)OCC)NC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C | C27H31F2N3O6
reactant | calcium chloride | 35 mg | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 24 mg | [BH4-].[Na+]
reactant | calcium chloride | 35 mg | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 24 mg | [BH4-].[Na+]
reactant | calcium chloride | 35 mg | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 24 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | ethanol | 1.4 ml | C(C)O | C2H6O
solvent | water | 0.34 ml | O | H2O
solvent | water | 0.34 ml | O | H2O
solvent | water | 0.34 ml | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-[(2,6-difluorobenzyl)oxy]-N-[1-hydroxy-2-(hydroxymethyl)hexan-2-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 32 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC(CO)(CCCC)CO)C(=CC=C1)F | C23H27F2N3O4
